US07468446B2
To a stirred brown solution of 1H-indole-6-carboxylic acid (2.68 g, 16.6 mmol) in THF (25 mL) was added CDI (2.97 g, 18.3 mmol) and stirred at room temperature for 2 hours. The mixture was then cooled to 0° C. and O,N-dimethyl-hydroxylamine hydrochloride (1.95 g, 20.0 mmol) was added and stirred at room temperature over night. Water (50 mL) was added to the reaction and extracted with EtOAc (2×100 mL). The combined organic phases were washed with brine (100 mL), dried over MgSO4 and concentrated in vacuo to give 1H-indole-6-carboxylic acid methoxy-methyl-amide as an oil (3.87 g, 114% crude yield): 1H NMR (CDCl3) 3.40 (s, 3H, NCH3), 3.59 (s, 3H, OCH3), 6.57-6.59 (m, 1H, Ar), 7.31-7.33 (m, 1H, Ar), 7.46-7.50 (m, 1H, Ar), 7.64 (d, J=8 Hz, 1H, Ar), 7.84 (s, 1H, Ar), 8.60 (brs, 1H, NH). The product was used in the next step without further purification.

reactant | 1H-indole-6-carboxylic acid | 16.6 mmol, 2.68 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | CDI | 18.3 mmol, 2.97 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | O,N-dimethyl-hydroxylamine hydrochloride | 20.0 mmol, 1.95 g | Cl.CONC
reactant | Water | 50 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1H-indole-6-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=CC=C2C=CNC2=C1)C | C11H12N2O2
